US04474754
18(b). Preparation of H-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys-Glu-OH
Z-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH was dissolved in liquid ammonia previously dried with metallic sodium, then small pieces of metallic sodium were added to the solution with stirring until the color of the reaction mixture is changed to blue and kept it for 30 seconds to 1 minute. Further, crystals of NH4Cl were added to the reaction mixture to neutralize an excess metallic sodium, after ammonia was completely removed by distillation at a room temperature, the reaction product was subjected to gel-filtration with Sephadex G-25 gel by using 50%-acetic acid as the eluting solvent to obtain 33 mg of the desired product. Hereinafter, this product is referred to as [Peptide H].

reactant | Z-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C89H135N21O32S
solvent | ammonia | N | H3N
product | H-Tyr-Ser-Leu-Ser-Thr-Asn-Leu-Gln-Glu-Ser-Leu-Arg-Ser-Lys-Glu-OH | 33 mg | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CCC(O)=O)C(=O)O | C74H123N21O28
